US09056874B2
a) (±)-2-(1-Methoxy-1-(7-methyl-5-(methylsulfonyl)-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
A mixture of (±)-2-(1-methoxy-1-(7-methyl-5-(methylsulfonyl)-1-tosyl-1H-indol-4-yl)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile and (±)-2-(1-methoxy-1-(7-methyl-5-(methylsulfonyl)-1-tosyl-1H-indol-4-yl)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile was transformed into the title compound using the same reaction conditions as described in Example 10-C. 1H NMR (400 MHz, DMSO-d6) δ 12.51-12.55 (m, 1H), 11.48 (br. s., 1H), 8.32-8.33 (m), 7.80-7.98 (m, 2H), 7.56-7.61 (m), 7.42-7.44 (m), 7.18 (t, J=2.91 Hz, 1H), 5.3 (br. s., 1H), 3.41 (s, 3H), 3.05 (s, 3H), 2.18 (s, 3H). MS (ESI+) m/z 409.1 (M+H).

reactant | (±)-2-(1-methoxy-1-(7-methyl-5-(methylsulfonyl)-1-tosyl-1H-indol-4-yl)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile | COC(C)(C1=C2C=CN(C2=C(C=C1S(=O)(=O)C)C)S(=O)(=O)C1=CC=C(C)C=C1)C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C#N | C34H40N4O6S2Si
reactant | (±)-2-(1-methoxy-1-(7-methyl-5-(methylsulfonyl)-1-tosyl-1H-indol-4-yl)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | COC(C)(C1=C2C=CN(C2=C(C=C1S(=O)(=O)C)C)S(=O)(=O)C1=CC=C(C)C=C1)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C#N | C34H40N4O6S2Si
product | (±)-2-(1-Methoxy-1-(7-methyl-5-(methylsulfonyl)-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | COC(C)(C1=C2C=CNC2=C(C=C1S(=O)(=O)C)C)C1=NC2=C(N1)C=CC(=C2)C#N | C21H20N4O3S
